US05274121
A solution of N-Methyl-4-(1-pyrrolidinyl)-2-butynamine (83.4 mg, 0.548 mmol), TEA (153 μL, 1.098 mmol), HMPA (114 μL, 0.657 mmol), and 2-(bromomethyl)-1,3-dioxolane (68 μL, 0.657 mmol) in DMF (2 mL) was stirred at 50 ° C. for 20 h or until complete by TLC. The mixture was poured into EtOAc (20 mL) then washed with 1N NaOH saturated with NaCl (3×20 mL). The organic layer was dried over Na2SO4, and the EtOAc removed in vacuo to give a crude orange oil (102.8 mg, 79% yield). This oil was vacuum distilled to give N-(2,5-dioxolylmethyl)-N-methyl-4-(1-pyrrolidinyl)-2-butynamine as a clear oil: bp 90° C. (0.2 mm Hg); MS (CI-NH3), m/e 239 (MH+); 1H NMR (CDCl3) δ1.74 (br s, 4 H), 2.33 (s, 3 H), 2.58 (br H), 3.37 (s, 2 H), 3.38 (s, 2 H), 3.79 (m, 2 H), 3.92 (m, 2 H), 4.90 (t, J=4.6 Hz, 1 H).

reactant | N-Methyl-4-(1-pyrrolidinyl)-2-butynamine | 0.548 mmol, 83.4 mg | CNCC#CCN1CCCC1 | C9H16N2
reactant | HMPA | 0.657 mmol, 114 μL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 2-(bromomethyl)-1,3-dioxolane | 0.657 mmol, 68 μL | BrCC1OCCO1 | C4H7BrO2
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(2,5-dioxolylmethyl)-N-methyl-4-(1-pyrrolidinyl)-2-butynamine | C1(OC=CO1)CN(CC#CCN1CCCC1)C | C13H20N2O2
